US04696759
To a solution of trans-4-pentylcyclohexanol (1.9 g 0.011 mol) dissolved in dry pyridine (5 ml) was added a solution of 3,4-difluorobenzoyl chloride (2.0 g, 0.011 mol) dissolved in dry toluene (10 ml), followed by heating the mixture at 60° C. for 3 hours, thereafter pouring the reaction mixture in water (100 ml), separating the toluene layer, washing it with 6N hydrochloric acid, then with 2N-NaOH aqueous solution and further with water, drying with anhydrous sodium sulfate, distilling off toluene from the resulting toluene solution and recrystallizing the remaining oily product from ethanol to obtain the objective 3,4-difluorobenzoic acid-trans-4-pentylcyclohexyl ester (2.4 g, 0.0077 mol) (yield: 70%). This product has a m.p. of 26.9° C., and its N-I point sought from a mixture thereof with trans-4-alkyl-(4-cyanophenyl)cyclohexanes according to extrapolation method was -6.0° C. Further its elemental analysis values were as follows: C: 70.03%, H: 7.81% (calculated values, C: 69.65% and H: 7.79%).

reactant | trans-4-pentylcyclohexanol | 0.011 mol, 1.9 g | C(CCCC)[C@@H]1CC[C@H](CC1)O | C11H22O
reactant | 3,4-difluorobenzoyl chloride | 0.011 mol, 2.0 g | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | 3,4-difluorobenzoic acid-trans-4-pentylcyclohexyl ester | 0.0077 mol, 2.4 g, yield: 70% | C(CCCC)[C@@H]1CC[C@H](CC1)OC(C1=CC(=C(C=C1)F)F)=O | C18H24F2O2
